US07985759B2
Friedel Crafts reaction of benzene with 5-hydroxy adamantanone in presence of triflic acid over a period of about 1-4 h at reflux temperature to obtain 5-phenyl adamantan one.

reactant | 5-hydroxy adamantanone | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-phenyl adamantan one | C1(=CC=CC=C1)C12CC3C(C(CC(C1)C3)C2)=O | C16H18O
